US04113776
A solution of 12.68 g. of 1-(2-aminoethyl)-3-(2,6-dichlorophenyl)thiourea in 80 ml. of ethanol, 4.0 ml. of concentrated hydrochloric acid and 12 ml. of iodomethane was refluxed for 2 hours. On cooling, the mixture was poured onto 200 ml. of water and sufficient 4N sodium hydroxide was added to bring the pH to 11. The aqueous solution was extracted 3 × 150 ml. of methylene chloride, and the combined organic layers were washed 1 × 100 ml. of water, dried over potassium carbonate and concentrated. The resulting gum gave a solid on standing, i.e., 1-(2-aminoethyl)-3-(2,6-dichlorophenyl)-2-methylthiopseudourea, m.p. 74°-79°, whose spectral data were consistent with the assigned structure. The material was too labile for purification and was acidified with hydrochloric acid and crystallized from ethanol-ether to give 14.10 g. (84%) of 1-(2-aminoethyl)-3-(2,6-dichlorophenyl)-2-methylthiopseudourea dihydrochloride, m.p. 179°-184°. Two crystallizations from ethanol-ether gave an analytical sample, m.p. 179°-182°.

reactant | 1-(2-aminoethyl)-3-(2,6-dichlorophenyl)thiourea | NCCNC(=S)NC1=C(C=CC=C1Cl)Cl | C9H11Cl2N3S
reactant | hydrochloric acid | Cl | ClH
reactant | iodomethane | IC | CH3I
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-aminoethyl)-3-(2,6-dichlorophenyl)-2-methylthiopseudourea | NCCNC(SC)=NC1=C(C=CC=C1Cl)Cl | C10H13Cl2N3S
